US07348359B2
A mixture of 0.450 mmol of 2-fluoro-3-{7-[2-(2,2-difluoroethoxy)-3,5-diisopropylphenyl]-benzo[b]furan-2-yl}-but-2-enoic acid ethyl ester, 3 mL of THF, 3 mL of methanol and 1 mL of LiOH (2N aqueous) was refluxed for 2 hours. After cooling at room temperature, the mixture was acidified to pH=2 and extracted with ethyl acetate. The organic layer was dried over MgSO4 and after evaporation of the solvents, the crude acid was recrystallized from acetonitrile. 2-Fluoro-3-{7-[2-(2,2-difluoroethoxy)-3,5-diisopropylphenyl]-benzo[b]furan-2-yl}-but-2-enoic acid was isolated as a white solid. 1H-NMR (400 MHz, CDCl3) δ 7.65 (d, J=8.1 Hz, 1H, Ar—H), 7.58 (d, J=7.3 Hz, 1H, Ar—H), 7.41 (d, J=3.0 Hz, 1H, furan-H), 7.34 (t, J=7.6 Hz, 1H, Ar—H), 7.31 (d, J=2.2 Hz, 1H, Ar—H), 7.17 (d, J=2.2 Hz, 1H, Ar—H), 5.52 (tt, J=55.2 Hz, J=4.1 Hz, 1H, O—CH2—CF2H), 3.52 (dt, J=13.6 Hz, J=4.1 Hz, 2H, O—CH2—CF2H), 3.41 (m, 1H, CH3—CH—CH3), 2.95 (m, 1H, CH3—CH—CH3), 2.56 (d, J=3.5 Hz, 3H, C═C—CH3), 1.31 (d, J=6.7 Hz, 6H, CH3—CH—CH3), 1.29 (d, J=6.8 Hz, 6H, CH3—CH—CH3).

reactant | 2-fluoro-3-{7-[2-(2,2-difluoroethoxy)-3,5-diisopropylphenyl]-benzo[b]furan-2-yl}-but-2-enoic acid ethyl ester | 0.450 mmol | C(C)OC(C(=C(C)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC(F)F)F)=O | C28H31F3O4
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | methanol | 3 mL | CO | CH4O
product | 2-Fluoro-3-{7-[2-(2,2-difluoroethoxy)-3,5-diisopropylphenyl]-benzo[b]furan-2-yl}-but-2-enoic acid | FC(C(=O)O)=C(C)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC(F)F | C26H27F3O4
